US08293721B2
Step B. 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-(pyrrolidin-3-ylmethyl)benzamide
To a solution of tert-butyl 3-({[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}methyl)pyrrolidine-1-carboxylate (910 mg) in dichloromethane (75 ml) was added 20 ml of trifluoroacetic acid. The mixture was stirred at room temperature for 2 h, and then concentrated in vacuo. The residue was basified by the addition of 75 ml of saturated aqueous sodium bicarbonate and diluted with 75 ml of ethyl acetate. The solids were filtered from both layers and dried in vacuo to provide the title compound (655 mg, 90%). Mass spectrum (ESI) 389.9 (M+1).

reactant | tert-butyl 3-({[4-(5-cyano-7-isopropyl-1,3-benzoxazol-2-yl)benzoyl]amino}methyl)pyrrolidine-1-carboxylate | 910 mg | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3CN(CC3)C(=O)OC(C)(C)C)C=C2)C1)C(C)C | C28H32N4O4
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 4-(5-Cyano-7-isopropyl-1,3-benzoxazol-2-yl)-N-(pyrrolidin-3-ylmethyl)benzamide | 655 mg, 90% | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3CNCC3)C=C2)C1)C(C)C | C23H24N4O2
